US06797726B1
In 28 mL of N,N-dimethylformamide is dissolved 5.60 g of 2-benzo[b]thiophen-5-yl-1-ethanol, to which are added 4.23 g of potassium tert-butoxide and 6.09 g of 1-chloroacetylpiperidine at an ice-cooled temperature. The mixture thus formed is stirred at the same temperature as above for 30 minutes, and then at ambient temperature for 2 hours. The reaction mixture is introduced into a mixture of ethyl acetate and water and adjusted to pH 2.0 with 2 mol/L hydrochloric acid, and then the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: n-hexane:ethyl acetate=5:1 to 2:1) to obtain 8.50 g of 2-(2-benzo[b]thiophen-5-ylethoxy)-1-piperidino-1-ethanone as an oily product.

reactant | 2-benzo[b]thiophen-5-yl-1-ethanol | 5.60 g | S1C2=C(C=C1)C=C(C=C2)CCO | C10H10OS
reactant | potassium tert-butoxide | 4.23 g | CC(C)([O-])C.[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
reactant | N,N-dimethylformamide | 28 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(2-benzo[b]thiophen-5-ylethoxy)-1-piperidino-1-ethanone | 8.50 g | S1C2=C(C=C1)C=C(C=C2)CCOCC(=O)N2CCCCC2 | C17H21NO2S
